US05733931
Trans-1,4-bis[[3-(4-dimethylaminophenyl)-1-normalpentylureido]methyl]cyclohexane
Trans-1,4-bis[(normalpentylamino)methyl]cyclohexane, 0.56 g, was dissolved in 10 ml of ether. A solution of 0.81 g of 4-dimethylaminophenyl isocyanate in 20 ml of acetonitrile was added. The reaction mixture was stirred at room temperature for 10 hours. The solvent of the reaction mixture was distilled off under reduced pressure and the residue was purified by silica gel column chromatography to provide 1.10 g (yield: 89%) of white crystals.

reactant | Trans-1,4-bis[(normalpentylamino)methyl]cyclohexane | C(CCCC)NC[C@@H]1CC[C@H](CC1)CNCCCCC | C18H38N2
reactant | 4-dimethylaminophenyl isocyanate | 0.81 g | CN(C1=CC=C(C=C1)N=C=O)C | C9H10N2O
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | Trans-1,4-bis[[3-(4-dimethylaminophenyl)-1-normalpentylureido]methyl]cyclohexane | 1.10 g, yield: 89% | CN(C1=CC=C(C=C1)NC(N(CCCCC)C[C@@H]1CC[C@H](CC1)CN(C(=O)NC1=CC=C(C=C1)N(C)C)CCCCC)=O)C | C36H58N6O2
